datasets/RMG-dataset.csv
rxn,Ea
[C:0](=[C:1]([C:2]([C:3]([H:16])([H:17])[H:18])=[C:4]([C:5](=[C:6]([H:20])[H:21])[H:19])[C:7]([C:8](=[C:9]([C:10]([C:11]([H:26])([H:27])[H:28])[C:12]([H:29])([H:30])[H:31])[H:25])[H:24])([H:22])[H:23])[H:15])([H:13])[H:14]>>[C:0](=[C:1]([C:2]1([C:3]([H:16])([H:17])[H:18])[C:4]([C:5](=[C:6]([H:20])[H:21])[H:19])[C:7]([H:22])([H:23])[C:8]([H:24])=[C:9]([H:25])[C:10]1([C:11]([H:26])([H:27])[H:28])[C:12]([H:29])([H:30])[H:31])[H:15])([H:13])[H:14],102.634
[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])[H:5])[H:4].[C:9](=[C:10]([C:11](=[C:12]([c:13]1[c:14]([H:24])[c:15]([H:25])[c:16]([H:26])[c:17]([H:27])[c:18]1[H:28])[H:23])[H:22])[H:21])([H:19])[H:20]>>[C:0](#[C:1][C:2]([C:3]([H:6])([H:7])[H:8])([H:5])[C:11]([C:10](=[C:9]([H:19])[H:20])[H:21])([C:12]([c:13]1[c:14]([H:24])[c:15]([H:25])[c:16]([H:26])[c:17]([H:27])[c:18]1[H:28])[H:23])[H:22])[H:4],37.4886
[C:0](=[C:1]([C:2](=[S:3])[H:7])[H:6])([H:4])[H:5].[C:8](=[C:9]([C:10]([C:11]([H:17])([H:18])[H:19])[C:12](=[C:13]([H:21])[H:22])[H:20])[H:16])([H:14])[H:15]>>[C:0](=[C:1]([C:2]=[S:3])[H:6])([H:4])[H:5].[H:7][C:10]([C:9](=[C:8]([H:14])[H:15])[H:16])([C:11]([H:17])([H:18])[H:19])[C:12](=[C:13]([H:21])[H:22])[H:20],111.294
[C:0](=[C:1]([C:2](=[C:3]([H:9])[H:10])[C:4](=[C:5]([H:12])[H:13])[H:11])[H:8])([H:6])[H:7].[C:14]([C:15](=[C:16]([H:20])[H:21])[H:19])([H:17])[H:18]>>[C:0](=[C:1]([C:2]([C:3]([H:9])([H:10])[C:14]([C:15](=[C:16]([H:20])[H:21])[H:19])([H:17])[H:18])[C:4](=[C:5]([H:12])[H:13])[H:11])[H:8])([H:6])[H:7],31.3382
[C:0]([O:1])([H:2])([H:3])[H:4].[H:5][H:6]>>[C:0]([O:1][H:6])([H:2])([H:3])[H:4].[H:5],89.2123
[C:0]([C:1](=[O:2])[C:3]([C:4]([H:10])([H:11])[H:12])([C:5]([H:13])([H:14])[H:15])[H:9])([H:6])([H:7])[H:8].[O:16][H:17]>>[C:0]([C:1](=[O:2])[C:3]([C:4]([H:10])([H:11])[H:12])([C:5]([H:13])([H:14])[H:15])[H:9])([H:7])[H:8].[H:6][O:16][H:17],-4.395292
[C:0]([C:1]([C:2]([H:12])([H:13])[H:14])([O:3][O:4][H:15])[C:5]([O:6][H:17])([O:7][O:8])[H:16])([H:9])([H:10])[H:11]>>[C:0]([C:1]([C:2]([H:12])([H:13])[H:14])([O:3][O:4][H:15])[C:5]([O:6])([O:7][O:8][H:17])[H:16])([H:9])([H:10])[H:11],143.76224
[C:0]([C:1]([C:2]([H:8])([H:9])[H:10])([C:3](=[C:4]([H:12])[H:13])[H:11])[H:7])([H:5])[H:6]>>[C:0](=[C:1]([C:3](=[C:4]([H:12])[H:13])[H:11])[H:7])([H:5])[H:6].[C:2]([H:8])([H:9])[H:10],130.766736
[C:0](=[C:1]([C:2](=[C:3]([H:8])[H:9])[C:4]([H:10])([H:11])[H:12])[H:7])([H:5])[H:6].[C:13](=[C:14]([H:16])[H:17])[H:15]>>[C:0](=[C:1]([C:2]([C:3]([H:8])([H:9])[C:13](=[C:14]([H:16])[H:17])[H:15])[C:4]([H:10])([H:11])[H:12])[H:7])([H:5])[H:6],-7.23832
[C:0]([C:1]([S:2][H:12])[c:3]1[c:4]([H:13])[c:5]([H:14])[c:6]([H:15])[c:7]([H:16])[c:8]1[H:17])([H:9])([H:10])[H:11].[S:18]=[C:19]([C:20]([S:21][H:25])([H:23])[H:24])[H:22]>>[C:0]([C:1]([S:2][H:12])([c:3]1[c:4]([H:13])[c:5]([H:14])[c:6]([H:15])[c:7]([H:16])[c:8]1[H:17])[H:23])([H:9])([H:10])[H:11].[S:18]=[C:19]([C:20]([S:21][H:25])[H:24])[H:22],-9.2048
[C:0]([C:1]([S:2][H:13])([c:3]1[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]1[H:18])[H:12])([H:9])([H:10])[H:11].[C:19]([C:20]([C:21]([H:27])([H:28])[H:29])[C:22](=[S:23])[H:30])([H:24])([H:25])[H:26]>>[C:0]([C:1]([S:2][H:13])[c:3]1[c:4]([H:14])[c:5]([H:15])[c:6]([H:16])[c:7]([H:17])[c:8]1[H:18])([H:9])([H:10])[H:11].[H:12][C:20]([C:19]([H:24])([H:25])[H:26])([C:21]([H:27])([H:28])[H:29])[C:22](=[S:23])[H:30],34.7272
[C:0]([O:1][H:5])([H:2])([H:3])[H:4].[C:6]([C:7](=[C:8]([H:12])[H:13])[H:11])([H:9])[H:10]>>[C:0]([O:1][C:6]([C:7](=[C:8]([H:12])[H:13])[H:11])([H:9])[H:10])([H:2])([H:3])[H:4].[H:5],204.751
[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])=[C:3]([C:4]([H:12])([H:13])[H:14])[C:5]([H:15])([H:16])[H:17])([H:6])([H:7])[H:8].[C:18]([C:19]([C:20]([H:25])([H:26])[H:27])[C:21]([H:28])([H:29])[H:30])([H:22])([H:23])[H:24]>>[C:0]([C:1]([C:2]([H:9])([H:10])[H:11])([C:3]([C:4]([H:12])([H:13])[H:14])[C:5]([H:15])([H:16])[H:17])[C:19]([C:18]([H:22])([H:23])[H:24])([C:20]([H:25])([H:26])[H:27])[C:21]([H:28])([H:29])[H:30])([H:6])([H:7])[H:8],17.4054
[C:0](#[C:1][C:2]=[S:3])[H:4].[C:5](=[C:6]([C:7]([S:8][H:14])([H:12])[H:13])[H:11])([H:9])[H:10]>>[C:0](#[C:1][C:2](=[S:3])[H:12])[H:4].[C:5](=[C:6]([C:7]([S:8][H:14])[H:13])[H:11])([H:9])[H:10],68.6176
[C:0](=[C:1]([S:2][H:6])[H:5])([H:3])[H:4].[C:7](=[C:8]([C:9]([C:10]([H:15])([H:16])[H:17])[H:14])[H:13])([H:11])[H:12]>>[C:0](=[C:1]([S:2])[H:5])([H:3])[H:4].[H:6][C:9]([C:8](=[C:7]([H:11])[H:12])[H:13])([C:10]([H:15])([H:16])[H:17])[H:14],15.8992
[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([H:20])([H:21])[H:22])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:7])([H:8])[H:9].[O:23][O:24]>>[C:0]([C:1]([C:2]([C:3]([C:4]([C:5]([C:6]([H:20])([H:21])[H:22])([H:18])[H:19])([H:16])[H:17])([H:14])[H:15])([H:12])[H:13])([H:10])[H:11])([H:8])[H:9].[H:7][O:23][O:24],213.09112
[N:0]=[C:1]=[N:2][H:3].[O:4][H:5]>>[H:3][O:4][H:5].[N:0]=[C:1]=[N:2],-7.891024
